US05700936
1B. Preparation of O,O,bis Nα -Z-Valine-ganciclovir
To a suspension of ganciclovir (5 gm) in dimethylformamide (30 ml) was added triethylamine (2.5 ml) and the Nα -Z-Valine-NCA (7.5 gm), and half hour later another portion (7.5 gm). After 3 hours from the initial addition, water was added and the reaction mixture was extracted with ethyl acetate. The organic phase was washed successively with sodium bisulfate solution (5%), water, sodium bicarbonate solution (5%), water, and brine, and then dried over sodium sulfate, filtered and evaporated. The residue was dissolved in toluene and precipitated by hexane addition. The solid was filtered washed with hexane, and dried under vacuum to give 15 gm of product.

reactant | ganciclovir | 5 gm | C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | C9H13N5O4
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | Z-Valine | CC(C)[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Z-Valine ganciclovir | 15 gm | CC(C)[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1.C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | InChI=1S/C13H17NO4.C9H13N5O4/c1-9(2)11(12(15)16)14-13(17)18-8-10-6-4-3-5-7-10;10-9-12-7-6(8(17)13-9)11-3-14(7)4-18-5(1-15)2-16/h3-7,9,11H,8H2,1-2H3,(H,14,17)(H,15,16);3,5,15-16H,1-2,4H2,(H3,10,12,13,17)/t11-;/m0./s1
